US04962111
p-Biphenyl Pyrazinoate
To 3.5 g (25 mmol) of pyrazinoyl chloride dissolved in methylene chloride (20 mL) and pyridine (2 mL) cooled to 0° C. in a 50 mL round bottom flask was added 4-phenyl-phenol (5.0 g, 30 mmol). Upon completion of the reaction and isolation as described above recrystallization from hexanes yielded 3.15 g (39% yield) of the crystalline title compound; m.p: 95°-98° C. Elemental Analysis: C17H12N2O2Calcd: C:73.90, H:4.38. Found: C:73.68, H:4.28.

reactant | pyrazinoyl chloride | 25 mmol, 3.5 g | N1=C(C=NC=C1)C(=O)Cl | C5H3ClN2O
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-phenyl-phenol | 30 mmol, 5.0 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | p-Biphenyl Pyrazinoate | 3.15 g, 39% yield | N1=C(C=NC=C1)C(=O)O.C1(=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C12H10.C5H4N2O2/c1-3-7-11(8-4-1)12-9-5-2-6-10-12;8-5(9)4-3-6-1-2-7-4/h1-10H;1-3H,(H,8,9)
